US07060844B2
To a solution of 2-bromobenzoic acid (0.50 g, 2.49 mmol) in THF (12.0 ml) cooled at −78° C. was added 2.5M n-BuLi in hexane (2.0 ml). After stirring for 25 minutes, a solution of acetaldehyde (0.142 g, 3.23 mmol) in THF (0.3 ml) was added. The reaction was allowed to warm to room temperature after 8 minutes at −78° C., and then quenched into 10% HCl aqueous solution (30 ml). The acidic solution was rapidly stirred for 1.5 hours, and then extracted with EtOAc. The combined organic layers were washed with saturated NaHCO3 aqueous solution, brine, dried with anhydrous Na2SO4, and rotary evaporated to an oily residue. Gradient chromatography of the oil residue through a silica gel column with 20% to 30% EtOAc in hexane afforded 3-methyl-2-benzofuran-1(3 H)-one as a clear oil (130 mg, 35%).

reactant | 2-bromobenzoic acid | 2.49 mmol, 0.50 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | acetaldehyde | 3.23 mmol, 0.142 g | C(C)=O | C2H4O
solvent | THF | 12.0 ml | C1CCOC1 | C4H8O
solvent | hexane | 2.0 ml | CCCCCC | C6H14
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | 3-methyl-2-benzofuran-1(3 H)-one | 130 mg, 35% | CC1OC(C2=C1C=CC=C2)=O | C9H8O2
